US07427616B2
4-(Methylthio)thieno[3,2-d]pyrimidine
Sodium thiomethoxide (9.1 g) was added to a solution of 4-chlorothieno[3,2-d]pyrimidine (WO9849899, example 3A; WO9924440, example 1C) (17.0 g) in DMF (100 mL). After stirring for 90 minutes the mixture was poured into water (400 mL), extracted into EtOAc, washed with water, dried (MgSO4), and the solvent removed. Purification by flash chromatography on silica eluting with DCM:EtOAc (4:1) gave the title compound as a pale yellow solid (16.5 g, 69%);

reactant | Sodium thiomethoxide | 9.1 g | C[S-].[Na+]
reactant | 4-chlorothieno[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | water | 400 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(Methylthio)thieno[3,2-d]pyrimidine | 16.5 g, 69% | CSC=1C2=C(N=CN1)C=CS2 | C7H6N2S2
